US06660744B1
A mixture of 2-(4-iodophenoxy)pyrimidine (int AZ) (3.50 g, 0.0118 mol), diboron pinacol ester (3.58 g, 0.0141 mol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (0.29 g, 0.00035 mol) and potassium acetate (3.46 g, 0.00346 mol) in N,N-dimethylformamide (70 ml) was heated at 80° C. under a nitrogen atmosphere overnight. The mixture was allowed to cool to ambient temperature and then most of the solvent was removed under reduced pressure. Dichloromethane (70 ml) was added to the residue and the resulting solids were removed by filtration through a pad of celite. The filtrate was concentrated to leave a dark oil which was purified by flash column chromatography on silica using n-heptane/ethyl acetate (2:1) as an eluent to give 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]pyrimidine as a white solid (2.95 g, 0.00989 mol): 1H NMR (DMSO-d6, 400 MHz) 8.65(d, 2H), 7.74 (d, 2H), 7.29 (t, 1H), 7.20 (d, 2H), 1.31 (s, 12H).

reactant | 2-(4-iodophenoxy)pyrimidine | 0.0118 mol, 3.50 g | IC1=CC=C(OC2=NC=CC=N2)C=C1 | C10H7IN2O
reactant | diboron pinacol ester | 0.0141 mol, 3.58 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00035 mol, 0.29 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.00346 mol, 3.46 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]pyrimidine | 0.00989 mol, 2.95 g | CC1(OB(OC1(C)C)C1=CC=C(OC2=NC=CC=N2)C=C1)C | C16H19BN2O3
